US04859672
A solution of 2-chloronicotinonitrile (97.82 g, 706 mmol) in 40% aqueous methylamine (706 ml) was heated to reflux for 1.5 hour. The excess methylamine was evaporated off and the resulting solids filtered and washed with water (250 mL). The crude product was dissolved in boiling water (1.4 l) and treated with charcoal and filtered through Celite. The aqueous filtrate was cooled to room temperature. After 10 hours the crystalline solid was collected, washed with water and dried to leave 71.10 g of 2-(methylamino)-nicotinonitrile (mp. 86-88 degrees C.). A sample was further purified by sublimation (100 degrees C. at 0.025 mm) mp. (87-88 degrees C.).

reactant | 2-chloronicotinonitrile | 706 mmol, 97.82 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | methylamine | 706 ml | CN | CH5N
product | 2-(methylamino)-nicotinonitrile | 71.10 g | CNC1=C(C#N)C=CC=N1 | C7H7N3
